Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: CARDIOTHORACIC
 
Allergies: 
lisinopril
 
Attending: ___
 
Chief Complaint:
Substernal chest pain and throat tightness with exertion

 
Major Surgical or Invasive Procedure:
___
1. Off pump coronary artery bypass graft x3, left internal 
mammary artery to left anterior descending artery and saphenous 
vein grafts to diagonal, and obtuse marginal arteries.
2. Endoscopic harvesting of the long saphenous vein.

 
History of Present Illness:
This is a ___ patient with extensive coronary artery 
disease history with previous stenting presented again with 
symptoms and was investigated and found to have a significant 
lesion in the left anterior descending artery diagonal and the 
obtuse marginal arteries.  Left ventricular function is well 
preserved and she was electively admitted for off pump coronary 
artery bypass grafting.

 
Past Medical History:
Coronary artery disease(s/p MI ___, BMS to proximal LAD ___, 
DES to mid LAD ___, DES to edge ISR of mid LAD DES and stenosis 
distal to stent ___, DES to OM1, ___. 
diastolic congestive heart failure
Hypertension
Dyslipidemia
Morbid obesity
COPD
GERD
Rt rotator cuff injury/bursitis(outpt ___, 
Migraines, 
Depression/Anxiety
DJD
Hemorrhoids 
Rosacea 
Left foot tendion repair
 
Social History:
___
Family History:
She was a ward of the ___ and does not know her family.  

 
Physical Exam:
Physical Exam

Pulse: 86 Resp:20  O2 sat:98%
B/P  Right: 132/68   Left:
Height: 5'2    Weight:210 

General: AAOx3, NAD 
Skin: Dry [x] intact [x]
HEENT: PERRLA [x] EOMI [x]
Neck:  Supple [x] Full ROM [x]
Chest: Lungs clear bilaterally [x]
Heart: RRR [x]  Irregular []  Murmur [] grade ______
Abdomen: Soft [x]non-distended [x]non-tender [x]bowel sounds 
+[x]
Extremities: Warm [x], well-perfused [x]  Edema [] _____
Varicosities: None [x]
Neuro: Grossly intact [x]

Pulses:
Femoral      Right: +2  Left:+2
DP           Right:+2   Left:+2
___           Right:+2   Left:+2
Radial       Right:cath site  Left:+2

Carotid Bruit: None      

 
Pertinent Results:
Echocargiogram ___
LEFT ATRIUM: Normal LA size. 
RIGHT ATRIUM/INTERATRIAL SEPTUM: Normal RA size. A catheter or 
pacing wire is seen in the RA and extending into the RV. 
Left-to-right shunt across the interatrial septum at rest. 
LEFT VENTRICLE: Wall thickness and cavity ___ were 
obtained from 2D images. Normal regional LV systolic function. 
Overall normal LVEF (>55%). 
RIGHT VENTRICLE: Normal RV chamber size and free wall motion. 
AORTA: Normal diameter of aorta at the sinus, ascending and arch 
levels. Simple atheroma in ascending aorta. Normal descending 
aorta diameter. Simple atheroma in descending aorta. 
AORTIC VALVE: Normal aortic valve leaflets (3). No AS. No AR. 
MITRAL VALVE: Normal mitral valve leaflets with trivial MR. 
___ VALVE: Normal tricuspid valve leaflets with trivial 
TR. 
PULMONIC VALVE/PULMONARY ARTERY: Normal pulmonic valve leaflet. 
No PS. Physiologic PR. 
PERICARDIUM: No pericardial effusion. 
Conclusions  
Pre operative:
The left atrium is normal in size. There is a small PFO with a 
left-to-right shunt across the interatrial septum. Regional left 
ventricular wall motion is normal. Overall left ventricular 
systolic function is normal (LVEF>55%). Right ventricular 
chamber size and free wall motion are normal. The diameters of 
aorta at the sinus, ascending and arch levels are normal. There 
are simple atheroma in the ascending aorta. There are simple 
atheroma in the descending thoracic aorta. The aortic valve 
leaflets (3) appear structurally normal with good leaflet 
excursion and no aortic stenosis or aortic regurgitation. The 
mitral valve appears structurally normal with trivial mitral 
regurgitation. There is no pericardial effusion. 

Chest X-Ray ___ 
There is mild-to-moderate cardiomegaly.  Bilateral pleural 
effusions are 
small.  Aside from atelectasis in the left lower lobe, the lungs 
are grossly clear.  Almost complete resolution of atelectasis in 
the left upper lobe.  Sternal wires are aligned.  Widened 
mediastinum has improved.  A small air-fluid level in the 
retrosternal region suggests the presence of a tiny pneumothorax 
and small effusion.  These are most likely located in the left 
side. 

___ 06:05AM BLOOD WBC-11.7* RBC-3.06* Hgb-10.4* Hct-30.5* 
MCV-100* MCH-33.9* MCHC-34.0 RDW-13.5 Plt ___
___ 06:15AM BLOOD WBC-11.1* RBC-3.23* Hgb-11.1* Hct-32.1* 
MCV-99* MCH-34.4* MCHC-34.6 RDW-13.3 Plt ___
___ 08:20AM BLOOD WBC-14.0* RBC-3.26* Hgb-10.8* Hct-32.3* 
MCV-99* MCH-33.2* MCHC-33.4 RDW-13.3 Plt ___
___ 06:05AM BLOOD Na-137 K-4.1 Cl-97
___ 06:15AM BLOOD Glucose-161* UreaN-19 Creat-1.1 Na-136 
K-4.0 Cl-97 HCO3-29 AnGap-14
___ 08:00AM BLOOD Glucose-230* UreaN-14 Creat-0.9 Na-136 
K-4.1 Cl-98 HCO3-26 AnGap-16
___ 08:20AM BLOOD Glucose-238* UreaN-16 Creat-1.0 Na-134 
K-4.6 Cl-100 HCO3-22 AnGap-17
___:00AM BLOOD Glucose-98 UreaN-13 Creat-0.9 Na-136 
K-4.7 Cl-106 HCO___ AnGap-12
 
Brief Hospital Course:
The patient was brought to the Operating Room on ___ where 
the patient underwent Off pump coronary artery bypass graft x3, 
left internal mammary artery to left anterior descending artery 
and saphenous vein grafts to diagonal, and obtuse marginal
arteries. Endoscopic harvesting of the long saphenous vein.
Overall the patient tolerated the procedure well and 
post-operatively was transferred to the CVICU in stable 
condition for recovery and invasive monitoring. She required 
Nitroglycerin for hypertension her first night post op but was 
transitioned to oral betablocker and diuretics. POD 1 found the 
patient extubated, alert and oriented and breathing comfortably. 
 The patient was neurologically intact and hemodynamically 
stable. The patient was transferred to the telemetry floor for 
further recovery. Chest tubes and pacing wires were discontinued 
without complication. She was started on plavix due to being 
done off pump and will it need to be continued for six months. 
Blood sugars were closely monitored and she was restarted on her 
home regime which have slowly improved. The patient was 
evaluated by the physical therapy service for assistance with 
strength and mobility.  By the time of discharge on POD 5 the 
patient was ambulating freely, the wound was healing and pain 
was controlled with oral analgesics.  The patient was discharged 
home with visiting nurse services in good condition with 
appropriate follow up instructions.

 
Medications on Admission:
Preadmission medications listed are correct and complete.  
Information was obtained from webOMR.
1. Atorvastatin 40 mg PO DAILY 
2. Albuterol Inhaler 2 PUFF IH Q4H:PRN wheezing 
3. Benzonatate 100 mg PO TID:PRN tos 
4. Clopidogrel 75 mg PO DAILY 
5. Fluticasone Propionate 110mcg 2 PUFF IH BID 
6. Glargine 80 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin
7. Isosorbide Mononitrate (Extended Release) 60 mg PO DAILY 
8. Metoprolol Succinate XL 100 mg PO DAILY 
9. Metronidazole Gel 0.75%-Vaginal 1 Appl VG HS 
10. Naproxen 500 mg PO Q8H:PRN pain 
11. Nitroglycerin SL 0.4 mg SL PRN cp 
12. Oxycodone-Acetaminophen (5mg-325mg) 1 TAB PO Q6H:PRN pain 
13. Pantoprazole 40 mg PO Q12H 
14. Ropinirole 0.25 mg PO QPM 
15. Valsartan 80 mg PO DAILY 
16. Aspirin 325 mg PO DAILY 
17. Vitamin D 400 UNIT PO DAILY 

 
Discharge Medications:
1. Aspirin EC 81 mg PO DAILY 
2. Atorvastatin 40 mg PO DAILY 
RX *atorvastatin 40 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0
3. Clopidogrel 75 mg PO DAILY 
RX *clopidogrel 75 mg 1 tablet(s) by mouth daily Disp #*90 
Tablet Refills:*1
4. Fluticasone Propionate 110mcg 2 PUFF IH BID 
RX *fluticasone [Flovent HFA] 220 mcg 2 puffs twice a day Disp 
#*1 Inhaler Refills:*0
5. Glargine 50 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin
6. Oxycodone-Acetaminophen (5mg-325mg) 1 TAB PO Q6H:PRN pain 
RX *oxycodone-acetaminophen 5 mg-325 mg 1 tablet(s) by mouth Q 4 
hrs Disp #*30 Tablet Refills:*0
7. Pantoprazole 40 mg PO Q24H 
RX *pantoprazole 40 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0
8. Ropinirole 0.25 mg PO QPM 
9. Furosemide 40 mg PO DAILY Duration: 7 Days 
RX *furosemide [Lasix] 40 mg 1 tablet(s) by mouth daily Disp #*7 
Tablet Refills:*0
10. Ibuprofen 600 mg PO Q6H:PRN pain 
take with food 
RX *ibuprofen 600 mg 1 tablet(s) by mouth three times a day Disp 
#*90 Tablet Refills:*0
11. Metoprolol Tartrate 25 mg PO TID 
Hold for HR < 55 or SBP < 90 and call medical provider. 
RX *metoprolol tartrate 25 mg 1 tablet(s) by mouth three times a 
day Disp #*90 Tablet Refills:*1
12. Potassium Chloride 20 mEq PO DAILY 
RX *potassium chloride 20 mEq 1 tablet by mouth daily Disp #*7 
Tablet Refills:*0
13. Albuterol Inhaler 2 PUFF IH Q4H:PRN wheezing 
RX *albuterol  2 puffs PRN Q 4 hrs Disp #*1 Inhaler Refills:*0
14. Vitamin D 400 UNIT PO DAILY 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
___ Diagnosis:
Coronary artery disease(s/p MI ___, BMS to proximal LAD ___, 
DES to mid LAD ___, DES to edge ISR of mid LAD DES and stenosis 
distal to stent ___, DES to OM1, ___. 
diastolic congestive heart failure
Hypertension
Dyslipidemia
Morbid obesity
COPD
GERD
Rt rotator cuff injury/bursitis(outpt ___, 
Migraines, 
Depression/Anxiety
DJD
Hemorrhoids 
Rosacea 
Left foot tendion repair

 
Discharge Condition:
Alert and oriented x3 nonfocal
Ambulating, gait steady
Sternal pain managed with oral analgesics
Sternal Incision - healing well, no erythema or drainage
 

 
Discharge Instructions:
Please shower daily including washing incisions gently with mild 
soap, no baths or swimming, and look at your incisions
Please NO lotions, cream, powder, or ointments to incisions
Each morning you should weigh yourself and then in the evening 
take your temperature, these should be written down on the chart
No driving for approximately one month and while taking 
narcotics, will be discussed at follow up appointment with 
surgeon when you will be able to drive
No lifting more than 10 pounds for 10 weeks

**Please call cardiac surgery office with any questions or 
concerns ___. Answering service will contact on call 
person during off hours**
Females: Please wear bra to reduce pulling on incision, avoid 
rubbing on lower edge

 
Followup Instructions:
___